US08629137B2
3-{1-[6-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydroimidazo[4,5-c]quinolin-2-one
134 mg (0.500 mmol) 3-piperidin-4-yl-1,3-dihydroimidazo[4,5-c]quinolin-2-one, 145 mg (0.500 mmol) 6-(6-chloropyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one and 0.174 mL (1.00 mmol) DIPEA were stirred overnight in 5 mL DMF at RT. The mixture was purified by preparative HPLC-MS. The fractions containing the product were combined, the organic solvent was eliminated i. vac. and the aqueous phase remaining was neutralised with a 4N aqueous NaOH solution. The precipitate was suction filtered, washed with water and dried in the CAD.

reactant | 3-piperidin-4-yl-1,3-dihydroimidazo[4,5-c]quinolin-2-one | 0.500 mmol, 134 mg | N1CCC(CC1)N1C(NC2=C1C=NC=1C=CC=CC21)=O | C15H16N4O
reactant | 6-(6-chloropyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 0.500 mmol, 145 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C13H8ClN3O3
reactant | DIPEA | 1.00 mmol, 0.174 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-{1-[6-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydroimidazo[4,5-c]quinolin-2-one | CC1=CC(=CC2=C1NC(O2)=O)C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC1=C2C=NC=2C=CC=CC12)=O | C28H23N7O4
